US06225320B1
2-Methoxy-3-trimethylsilyl-5-trifluoromethylpyridine
To butyl lithium (7.2 ml, 1.6M in hexanes, 11.5 mmol) in tetrahydrofuran (12.0 ml) at −78° C. was slowly added diisopropylamine (1.14 g, 11.3 mmol) in tetrahydrofuran (4.0 ml), and the resulting solution allowed to warm to 0° C. over 45 mins. A mixture of 2-methoxy-5-trifluoromethylpyridine (2.00 g, 11.3 mmol) and trimethylsilyl chloride (3.2 ml, 25.2 mmol) in tetrahydrofuran (8.0 ml) was then slowly added and the mixture stirred for 30 mins. at 0° C., before being quenched with water (50 ml). The mixture formed was extracted with ethyl acetate (2×70 ml), and the extracts washed with brine (50 ml), dried (Na2SO4) and concentrated to give the product as an orange oil (1.36 g, 48% yield).

reactant | butyl lithium | 11.5 mmol, 1.6M, 7.2 ml | C(CCC)[Li]
reactant | diisopropylamine | 11.3 mmol, 1.14 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-methoxy-5-trifluoromethylpyridine | 11.3 mmol, 2.00 g | COC1=NC=C(C=C1)C(F)(F)F | C7H6F3NO
reactant | trimethylsilyl chloride | 25.2 mmol, 3.2 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 12.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
product | 2-Methoxy-3-trimethylsilyl-5-trifluoromethylpyridine | 1.36 g, 48% yield | COC1=NC=C(C=C1[Si](C)(C)C)C(F)(F)F | C10H14F3NOSi
